US08895745B2
Procedure SGG3 (E)-3-(3-{3-[3-(2,2,2-Trifluoro-ethyl)-ureido]-phenyl}-imidazo[1,2-a]pyridin-7-yl)-acrylic acid
To a solution of (E)-3-(3-{3-[3-(2,2,2-Trifluoro-ethyl)-ureido]-phenyl}-imidazo[1,2-a]pyridin-7-yl)-acrylic acid ethyl ester (83 mg, 0.19 mmol) in EtOH (10 ml) was added 1M Na2CO3 (4 ml) and the reaction heated to 80° C. for 1.5 h. The reaction was neutralised using 1M HCl and then concentrated. The residue was taken up in hot EtOH, filtered and the solvent removed in vacuo to afford the product. MS: [M+H]+ 405.

reactant | (E)-3-(3-{3-[3-(2,2,2-Trifluoro-ethyl)-ureido]-phenyl}-imidazo[1,2-a]pyridin-7-yl)-acrylic acid ethyl ester | 0.19 mmol, 83 mg | C(C)OC(\C=C\C1=CC=2N(C=C1)C(=CN2)C2=CC(=CC=C2)NC(=O)NCC(F)(F)F)=O | C21H19F3N4O3
reactant | Na2CO3 | 1M, 4 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | EtOH | 10 ml | CCO | C2H6O
product | (E)-3-(3-{3-[3-(2,2,2-Trifluoro-ethyl)-ureido]-phenyl}-imidazo[1,2-a]pyridin-7-yl)-acrylic acid | FC(CNC(NC=1C=C(C=CC1)C1=CN=C2N1C=CC(=C2)/C=C/C(=O)O)=O)(F)F | C19H15F3N4O3
